US04617308
A mixture of 1.24 g (3.6 mmol) of 6,7,8-trifluoro-1-(4-fluorophenyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 1.0 g (5.4 mmol) of 1,1-dimethylethyl (3-pyrrolidinyl)carbamate, 0.56 g (3.6 mmol) of 1,8-dizabicyclo[5.4.0]undec7-ene, and 25 ml of acetonitrile is heated at reflux for four hours and is allowed to stir at room temperature overnight. The precipitated solids are filtered washed with ether to give 7-[3-t-butoxycarbonylamino-1-pyrrolidinyl]-6,8-difluoro-1-(4-fluorophenyl)-1,4-dihydro-4-oxo-3-quinoline carboxylic acid.

reactant | 6,7,8-trifluoro-1-(4-fluorophenyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 3.6 mmol, 1.24 g | FC=1C=C2C(C(=CN(C2=C(C1F)F)C1=CC=C(C=C1)F)C(=O)O)=O | C16H7F4NO3
reactant | 1,1-dimethylethyl (3-pyrrolidinyl)carbamate | 5.4 mmol, 1.0 g | N1CC(CC1)NC(OC(C)(C)C)=O | C9H18N2O2
reactant | undec7-ene | CCCCCCC=CCCC | C11H22
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 7-[3-t-butoxycarbonylamino-1-pyrrolidinyl]-6,8-difluoro-1-(4-fluorophenyl)-1,4-dihydro-4-oxo-3-quinoline carboxylic acid | C(C)(C)(C)OC(=O)NC1CN(CC1)C1=C(C=C2C(C(=CN(C2=C1F)C1=CC=C(C=C1)F)C(=O)O)=O)F | C25H24F3N3O5
